US06852731B2
N-(4-chlorobenzyl)-2-{[[2-hydroxy-2-(1-methyl-1H-pyrrol-2-yl)ethyl](methyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
A mixture of N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide (100 mg, 0.25 mmol), 2-(methylamino)-1-pyrimidin-2-ylethanol (Preparation 62)(63 mg, 0.38 mmol) and diisopropylethylamine (67 μL, 0.3.8 mmol) in dry DMF (5 mL) was heated to 60° C., becoming a solution. The reaction was stirred for 24 hours at that temperature. After cooling to room temperature, the solution was diluted with water (15 mL). The resulting milky suspension was stirred vigorously for 30 minutes, and then left standing overnight at room temp. The mixture was filtered, and the collected solid was washed with water and dried in vacuo, leaving a white solid. Recrystallization from acetonitrile (10 mL, dissolved with warming and then cooled to 0° C. overnight) gave the title compound (86 mg) as a white solid.

reactant | N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.25 mmol, 100 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CCl)C)=O)C=C1 | C18H16Cl2N2O2S
reactant | 2-(methylamino)-1-pyrimidin-2-ylethanol | 0.38 mmol, 63 mg | CNCC(O)C1=NC=CC=N1 | C7H11N3O
reactant | diisopropylethylamine | 67 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
product | N-(4-chlorobenzyl)-2-{[[2-hydroxy-2-(1-methyl-1H-pyrrol-2-yl)ethyl](methyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 86 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CN(C)CC(C=3N(C=CC3)C)O)C)=O)C=C1 | C26H29ClN4O3S
